US20010014682A1
a) N-t-Butoxycarbonylisonipecotic Acid, Allyl Ester
Sodium hydroxide is added to isonipecotic acid in THF and water. After the NaOH dissolves, the reaction is cooled in an ice bath and di-t-butyldicarbonate is added portionwise. After stirring at RT for 18 h, the bulk of the solvent is removed under reduced pressure and the residue is partitioned between H2O and EtOAc. The aqueous layer is made acidic (pH=3) with IN HCl and is extracted with EtOAc. The solvent is removed under reduced pressure and the residue is azeotroped from hexanes (3 times). This material is dissolved in CH2Cl2 and allyl alcohol, EDC and DMAP are added. After 18 h, the reaction is diluted with CH2Cl2 and is washed with 1N HCl, sat. NaHCO3 and dried over Na2SO4. The solvent is removed under reduced pressure and the material is purified by flash chromatography.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | isonipecotic acid | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | di-t-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-t-Butoxycarbonylisonipecotic Acid, Allyl Ester | C(C)(C)(C)OC(=O)N1CCC(C(=O)OCC=C)CC1 | C14H23NO4
